US07666882B2
Step D: Preparation of 6,8-Dichloro-2-[1-(3-chloro-2-pyridinyl)-3-[(methylsulfonyl)oxy]-1H-pyrazol-5-yl]-4H-3,1-benzoxazin-4-one
To a solution of methanesulfonyl chloride (0.14 mL, 1.75 mmol) in acetonitrile (10 mL) was added dropwise a mixture of 1-(3-chloro-2-pyridinyl)-2,3-dihydro-3-oxo-1H-pyrazole-5-carboxylic acid (i.e. the product of Step C) (0.4 g, 1.67 mmol) and triethylamine (0.23 mL, 1.67 mmol) in acetonitrile (3 mL) at 0-5° C. The reaction temperature was then maintained at about 0° C. throughout the addition. After stirring for 10 minutes, 3,5-dichloroanthranilic acid (Aldrich, 0.34 g, 1.67 mmol) was added and stirring was continued for an additional 5 minutes. A solution of triethylamine (0.47 mL, 3.33 mmol) in acetonitrile (3 mL) was then added dropwise, and the reaction mixture stirred 40 minutes, followed by the addition of methanesulfonyl chloride (0.14 mL, 1.75 mmol). The reaction mixture was then warmed to room temperature and stirred overnight. Approximately 50 mL of water was then added followed by extraction with ethyl acetate (3×30 mL). The combined ethyl acetate phase was washed with water (1×20 mL) followed by brine (1×20 mL), dried (MgSO4) and concentrated to yield 0.8 g of a crude yellow solid. Chromatography on silica gel using hexanes/ethyl acetate as eluent resulted in isolation of 0.11 g of the title compound as a yellow solid.

reactant | methanesulfonyl chloride | 1.75 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(3-chloro-2-pyridinyl)-2,3-dihydro-3-oxo-1H-pyrazole-5-carboxylic acid | ClC=1C(=NC=CC1)N1NC(C=C1C(=O)O)=O | C9H6ClN3O3
reactant | triethylamine | 1.67 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichloroanthranilic acid | 1.67 mmol, 0.34 g | ClC1=C(C(C(=O)O)=CC(=C1)Cl)N | C7H5Cl2NO2
reactant | triethylamine | 3.33 mmol, 0.47 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.75 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | water | 50 mL | O | H2O
product | 6,8-Dichloro-2-[1-(3-chloro-2-pyridinyl)-3-[(methylsulfonyl)oxy]-1H-pyrazol-5-yl]-4H-3,1-benzoxazin-4-one | 0.11 g | ClC=1C=C(C2=C(C(OC(=N2)C2=CC(=NN2C2=NC=CC=C2Cl)OS(=O)(=O)C)=O)C1)Cl | C17H9Cl3N4O5S
